US08865911B2
3-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)benzonitrile
3-bromo-5-(trifluoromethyl)benzonitrile (1.25 mL, 5.00 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (2.54 g, 10.0 mmol), [1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) chloride (288 mg, 0.35 mmol), and potassium acetate (1.47 g, 15.0 mmol) were mixed in dioxane (15 mL) in a round-bottomed flask. The atmosphere was exchanged for argon, and the mixture was heated to 110° C. for 1 h. The reaction mixture was cooled to r.t., filtered through diatomaceous earth, and the filter cake was washed with EtOAc. The filtrate solution was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography using heptane/EtOAc (70/30) as eluent to give the title compound (495 mg, 33% yield): 1H NMR (400 MHz, CDCl3) δ ppm 1.37 (s, 12 H), 7.98 (m, 1 H), 8.26 (s, 2 H); MS (ES+) m/z 297 [M+H]+.

reactant | 3-bromo-5-(trifluoromethyl)benzonitrile | 5.00 mmol, 1.25 mL | BrC=1C=C(C#N)C=C(C1)C(F)(F)F | C8H3BrF3N
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 10.0 mmol, 2.54 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 15.0 mmol, 1.47 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-palladium(II) chloride | 0.35 mmol, 288 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)benzonitrile | 495 mg, 33% yield | CC1(OB(OC1(C)C)C=1C=C(C#N)C=C(C1)C(F)(F)F)C | C14H15BF3NO2
